US06890942B2
4-Cyclopropanesulfonylamino-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with cyclopropanesulfonic acid amide as described in the preparation of compound 1 to yield the title compound. LCMS (M+H) calcd for C15H18FN2O6S: 373.1; found: 373.0. 1H NMR (500 MHz, CDCl3) δ: 1.13 (m, 2), 1.44 (m, 2), 2.95 (m, 1), 3.68 (s, 3), 4.79 (s, 2), 6.55 (s, 1), 7.02 (m, 2), 7.29 (m, 2), 8.95 (s, 1). 13C NMR (125 MHz, CDCl3) δ: 6.45, 31.41, 48.31, 63.22, 92.45, 115.71, 115.88, 130.25, 130.32, 131.09, 159.44, 159.74, 161.70, 163.67, 170.98.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | cyclopropanesulfonic acid amide | C1(CC1)S(=O)(=O)N | C3H7NO2S
product | 4-Cyclopropanesulfonylamino-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C2CC2)O)=O)OC)C=C1 | C15H17FN2O6S
